US04748165
A solution of 5-[4-[2-ethylguanidino)-1,2,3-triazol-2-yl]valeronitrile (1.35 g.) in MeOH (5 ml.) and chloroform (20 ml.) was saturated with gaseous HCl at 0° and the solution kept at 0° for 2.5 days. Evaporation of the solvent gave an oil which was basified with cold potassium carbonate solution and then extracted with chloroform to give methyl 5-[4-(2-ethylguanidino)1,2,3-triazol-2-yl]valerimidate (1.57 g.) which was used without further purification.

reactant | 5-[4-[2-ethylguanidino)-1,2,3-triazol-2-yl]valeronitrile | 1.35 g | C(C)N=C(NC1=NN(N=C1)CCCCC#N)N | C10H17N7
reactant | HCl | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-[4-(2-ethylguanidino)1,2,3-triazol-2-yl]valerimidate | 1.57 g | C(C)N=C(NC1=NN(N=C1)CCCCC(OC)=N)N | C11H21N7O
